US08802864B2
b) 4-(4-bromo-2,5-difluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
To a round bottom flask were added N-(4-bromo-2,5-difluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide (1.80 g, 4.04 mmol) and potassium carbonate (1.955 g, 14.15 mmol) and water (200 mL). The resulting suspension was refluxed for 16 h at 115° C. The pH of the solution was lowered to ˜6 with 1N aq HCl and then partitioned with 150 mL of ethyl acetate. The aqueous phase was extracted with ethyl acetate (3×) and the combined organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel chromatography (0-100% ethyl acetate/hexanes, then 0-25% isopropanol/ethyl acetate), and the desired fractions were combined and concentrated in vacuo to afford the title product as an off-white solid (400 mg, 31%). MS(ES)+ m/e 426.9, 428.8 M+H]+.

reactant | N-(4-bromo-2,5-difluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | 4.04 mmol, 1.80 g | BrC1=CC(=C(C=C1F)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H19BrF2N4O3
reactant | potassium carbonate | 14.15 mmol, 1.955 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 4-(4-bromo-2,5-difluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 400 mg, 31% | BrC1=CC(=C(C=C1F)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H17BrF2N4O2
